Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cholelithiasis.
 
Major Surgical or Invasive Procedure:
___ Laparoscopic cholecystectomy.

 
History of Present Illness:
___ woman with likely
NASH cirrhosis.  She is well compensated Child's class A with
a MELD of 11.  She has known cholelithiasis and a recent
admission for gallstone pancreatitis.  She continues to
have episodes of right upper quadrant pain.  She presents
today for elective cholecystectomy.  The risks and benefits of
the operation had been discussed.  Informed consent was
obtained.

 
Past Medical History:
HTN
NIDDMI
Cirrhosis (unknown etiology) c/b esophageal varices
 
Social History:
___
Family History:
Mother with hypertension and hyperlipidemia. No
known family history of gallbladder disease.

 
Physical Exam:
Discharge 

PHYSICAL EXAMINATION:

GENERAL: [x ]NAD  [x ]A/O x 3  [ ]intubated/sedated [ ]abnormal
CARDIAC: [x ]RRR  [ ]no MRG  [ ]Nl S1S2 [ ]abnormal
LUNGS: [ ]CTA b/l  [x ]no respiratory distress  [ ]abnormal
ABDOMEN: [ ]NBS  [x ]soft  [x]Nontender  [ ]appropriately tender 

[x ]nondistended  [ ]no rebound/guarding  [ ]abnormal
WOUND: [x ]CD&I  [ ]no erythema/induration  [ ]JP [ ]abnormal
EXTREMITIES: [x ]no CCE  [x ]Pulse  [ ]abnormal

 
Pertinent Results:
___ 12:32PM BLOOD WBC-4.1 RBC-4.07 Hgb-12.5 Hct-39.1 MCV-96 
MCH-30.7 MCHC-32.0 RDW-13.8 RDWSD-49.0* Plt ___
___ 04:04AM BLOOD WBC-6.6 RBC-3.62* Hgb-11.2 Hct-34.1 
MCV-94 MCH-30.9
 MCHC-32.8 RDW-13.9 RDWSD-48.1* Plt ___

___ 04:04AM BLOOD Glucose-107* UreaN-10 Creat-0.7 Na-140 
K-3.7 Cl-107 HCO3-25 AnGap-8*

___ 12:32PM BLOOD ALT-34 AST-83* AlkPhos-209* TotBili-1.3
___ 04:04AM BLOOD ALT-31 AST-77* AlkPhos-178* TotBili-1.4

___ 12:32PM BLOOD Mg-1.3*
___ 04:04AM BLOOD Albumin-3.2* Calcium-8.8 Phos-3.0 Mg-1.___ F w/ h/o HTN, DM, and Childs A ___ cirrhosis, now s/p lap 
ccy for history of gallstone pancreatitis, biliary colic. Postop 
course uneventful. 
Tolerated a regular diet without N/V. She had minimal pain 
overnight and had ambulated twice. She voided after foley 
catheter removed. 

LFTs decreased. Incision was intact without redness/drainage. 
She was discharged to home in stable condition. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nadolol 20 mg PO DAILY 
2. Ursodiol 500 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
do not take more than 2000mg per day  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours as needed 
Disp #*5 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
5.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
6.  Losartan Potassium 50 mg PO DAILY  
7.  MetFORMIN (Glucophage) 500 mg PO BID  
8.  Nadolol 20 mg PO DAILY  
9.  Ursodiol 500 mg PO DAILY  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gallstone pancreatitis
biliary colic
NASH cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office at ___ for fever 
of 101, chills, nausea, vomiting, diarrhea, constipation, 
increased abdominal pain, pain not controlled by your pain 
medication, swelling of the abdomen or ankles, yellowing of the 
skin or eyes, inability to tolerate food, fluids or medications, 
the incision sites have redness, drainage or bleeding, or any 
other concerning symptoms.

You may shower. Allow water to run over the incision. Do not 
apply lotion or powder to the incision area. Leave incision open 
to the air.

No lifting more than 10 pounds
No driving if taking narcotic pain medication

 
Followup Instructions:
___